US04585781
5-Bromo-1-[2-[(tetrahydro-2H-pyran-2-yl)oxy]ethyl]-1H-tetrazole
A suspension of 5-bromo-1H-tetrazole-1-ethanol (5.79 g) and pyridinium 4-toluenesulphonate (0.5 g) in dichloromethane (50 ml) and dihydropyran (4 ml) was stirred at room temperature for 16 h to give a colourless solution. Water (25 ml) and sodium carbonate solution (25 ml) were added, the phases were separated and the aqueous phase was extracted with dichloromethane. The combined extracts were washed with water and brine, dried and evaporated to give the title compound (6.5 g) as a colourless oil.

reactant | 5-bromo-1H-tetrazole-1-ethanol | 5.79 g | BrC1=NN=NN1CCO | C3H5BrN4O
reactant | pyridinium 4-toluenesulphonate | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | Water | 25 ml | O | H2O
reactant | sodium carbonate | 25 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dihydropyran | 4 ml | O1CCCC=C1 | C5H8O
product | 5-Bromo-1-[2-[(tetrahydro-2H-pyran-2-yl)oxy]ethyl]-1H-tetrazole | 6.5 g | BrC1=NN=NN1CCOC1OCCCC1 | C8H13BrN4O2
